US07560558B2
Compound 221: [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methanone
[3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methanol (20 mg) was dissolved in methanol (0.4 ml) and dichloromethane (1.2 ml) to prepare a solution. Manganese dioxide (300 mg) was added to the solution, and the mixture was stirred at room temperature for 6 days. The reaction solution was filtered through Celite and was then washed with chloroform and methanol. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give the title compound (6 mg, yield 28%).

reactant | [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methanol | 20 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC(=CC1)C)C(O)C1=NC(=CC=C1)C | C24H23N3O4
reactant | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
solvent | methanol | 0.4 ml | CO | CH4O
catalyst | Manganese dioxide | 300 mg | [O-2].[O-2].[Mn+4]
product | [3-(6,7-Dimethoxy-quinolin-4-yloxy)-6-methyl-pyridin-2-yl]-(6-methyl-pyridin-2-yl)-methanone | 6 mg, yield 28% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC(=CC1)C)C(=O)C1=NC(=CC=C1)C | C24H21N3O4
